US04870076
2-(2-Benzenesulphonylamino-ethyl)-furan
3.2 g of 2-(2-aminoethyl)-furan are dissolved in 45 ml of pyridine and at 5° C. a solution of 8.8 g of benzenesulphonic acid chloride in 50 ml of pyridine is added. The resulting mixture is then stirred overnight at ambient temperature, the reaction product is evaporated down, the residue is taken up in water and extracted with methylene chloride. After the organic phase has been dried over magnesium sulphate the solution is concentrated by evaporation and chromatographed over a silica gel column using ethylene chloride.

reactant | 2-(2-aminoethyl)-furan | 3.2 g | NCCC=1OC=CC1 | C6H9NO
reactant | benzenesulphonic acid chloride | 8.8 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Benzenesulphonylamino-ethyl)-furan | C1(=CC=CC=C1)S(=O)(=O)NCCC=1OC=CC1 | C12H13NO3S
